US04028344
Preparation of N-[1-(t-Butylazo)cyclohexyl]-N'-isobutylurea
To 7.4 grams (0.0353 moles) of 1-t-butylazo-1-isocyanatocyclohexane stirred with a magnetic stirrer in a 50 ml erlenmeyer flask was added 2.59 grams (0.0353 moles) of isobutylamine. The reaction mixture became viscous, was diluted with pentane and stirred for 3 hours at room temperature. The pentane was stripped from the reaction mixture leaving a yellow solid weighing 9.7 grams (97% crude yield). The product melted at 90°-92° C. The infrared spectrum of the product contained a very strong urea type carbonyl around 1625 cm-1 and a broad NH band at 3330 cm-1. The isocyanate band at 2225 cm-1 was absent.

reactant | 1-t-butylazo-1-isocyanatocyclohexane | 0.0353 moles, 7.4 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=O | C11H19N3O
reactant | isobutylamine | 0.0353 moles, 2.59 grams | C(C(C)C)N | C4H11N
reactant | urea | NC(=O)N | CH4N2O
reactant | isocyanate | [N-]=C=O
solvent | pentane | CCCCC | C5H12
product | N-[1-(t-Butylazo)cyclohexyl]-N'-isobutylurea | C(C)(C)(C)N=NC1(CCCCC1)NC(=O)NCC(C)C | C15H30N4O
